US06680329B2
The process is performed in the same way as in Example 1.4, and starting with 2.32 g (7.5 mmol) of (S)-5-(5-amino-2-pyrazinyl)-2-[[(1,1-dimethylethoxy)carbonyl]amino]pentanoic acid and 1.9 g (11.25 mmol) of 4-(difluoromethylene)piperidine hydrochloride, to give 2.61 g of 1,1-dimethylethyl (S)-[4-(5-amino-2-pyrazinyl)-1-[[4-(difluoromethylene)piperid-1-yl)carbonyl]butyl]carbamate in the form of an amorphous powder.

reactant | (S)-5-(5-amino-2-pyrazinyl)-2-[[(1,1-dimethylethoxy)carbonyl]amino]pentanoic acid | 7.5 mmol, 2.32 g | NC=1N=CC(=NC1)CCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C14H22N4O4
reactant | 4-(difluoromethylene)piperidine hydrochloride | 11.25 mmol, 1.9 g | Cl.FC(=C1CCNCC1)F
product | 1,1-dimethylethyl (S)-[4-(5-amino-2-pyrazinyl)-1-[[4-(difluoromethylene)piperid-1-yl)carbonyl]butyl]carbamate | 2.61 g, Yield (%)=82 | NC=1N=CC(=NC1)CCC[C@@H](C(=O)N1CCC(CC1)=C(F)F)NC(OC(C)(C)C)=O | C20H29F2N5O3
